US04666899
(a) Diphenylmethyl(6R,7R)-7-formamido-3-[(Z)-hex-1-en-3-ynyl]ceph-3-em-4-carboxylate
A stirred solution of (6R,7R)-[4-diphenylmethoxycarbonyl-7-formamidoceph-3-em-ylmethyl]triphenylphosphonium bromide (15.00 g) (preparation described in British Patent Specification No. 1342241) in dichloromethane (250 ml) was treated with saturated sodium bicarbonate solution (75 ml). After a few minutes, 2-pentynal (3.28 g) was added, in one portion, and the mixture was stirred for ca 19 h. The two layers were separated and the organic phase was washed with 2N hydrochloric acid (250 ml), water (250 ml) and brine (250 ml) and dried (sodium sulphate). The solvent was removed and the residue was purified by chromatography (750 g silica gel). Elution with ethyl acetate:dichloromethane (1:19→1:14) gave the title compound as a solid (1.72 g); νmax (CHBr3) 3410 (NH), 2200 (C≡C), 1783 cm-1 (β-lactam); τ(CDCl3) values include 1.76 (H-CO), 3.26 (--CH=CH--C≡C), 3.54 (NH), 4.14 (7H), 4.42 (--CH=CH--C≡C), 4.98 (6H), 7.66 (C≡C--CH2 13 ).

reactant | (6R,7R)-[4-diphenylmethoxycarbonyl-7-formamidoceph-3-em-ylmethyl]triphenylphosphonium bromide | 15.00 g | [Br-].C1(=CC=CC=C1)C(OC(=O)C1=CC(S[C@H]2N1C([C@H]2NC=O)=O)C[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C2=CC=CC=C2
reactant | sodium bicarbonate | 75 ml | C([O-])(O)=O.[Na+]
reactant | 2-pentynal | 3.28 g | C(C#CCC)=O | C5H6O
solvent | dichloromethane | 250 ml | ClCCl | CH2Cl2
product | Diphenylmethyl(6R,7R)-7-formamido-3-[(Z)-hex-1-en-3-ynyl]ceph-3-em-4-carboxylate | 1.72 g | C(=O)N[C@H]1[C@@H]2N(C(=C(CS2)\C=C/C#CCC)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C27H24N2O4S
